US08871934B2
4-chloro-2-fluoro-fluoren-9-one
To a mixture of phosphorus pentoxide (133 g) and methanesulfonic acid (1300 ml) was added 2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid (132.9 g), and the mixture was stirred at 80° C. for 2.5 hr. The reaction mixture was ice-cooled, water (1300 ml) was slowly added dropwise, and the mixture was further stirred at room temperature for 1 hr. This suspension was filtered, and the obtained solid was washed with water (300 ml). The solid was mixed with 50 v/v % ethanol-water (1300 ml), and the slurry was stirred at room temperature for 1.5 hr, and filtered. The obtained solid was washed with 50 v/v % ethanol-water (200 ml), air-dried for 3 hr, and dried under reduced pressure at 60° C. to give the title compound (121.6 g, 99%).

reactant | phosphorus pentoxide | 133 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | 1300 ml | CS(=O)(=O)O | CH4O3S
reactant | 2′-chloro-4′-fluoro-biphenyl-2-carboxylic acid | 132.9 g | ClC1=C(C=CC(=C1)F)C=1C(=CC=CC1)C(=O)O | C13H8ClFO2
solvent | water | 1300 ml | O | H2O
product | 4-chloro-2-fluoro-fluoren-9-one | 121.6 g, 99% | ClC1=CC(=CC=2C(C3=CC=CC=C3C12)=O)F | C13H6ClFO
